US09193689B2
4-[4-(5-Ethynyl-1-oxo-1,2-dihydroisoquinolin-3-yl)benzyl]piperazine-1-carboxylic acid tert-butyl ester (60.3 mg, 0.136 mmol) and 4M HCl/dioxane (3 mL) in CH2Cl2 (3 mL) were stirred at RT for 2 h. The reaction mixture was concentrated in vacuo and the crude material was purified by reverse phase preparative HPLC-MS to obtain 5-ethynyl-3-(4-piperazin-1-ylmethylphenyl)-2H-isoquinolin-1-one as an off-white solid (16.0 mg, 34%).

reactant | 4-[4-(5-Ethynyl-1-oxo-1,2-dihydroisoquinolin-3-yl)benzyl]piperazine-1-carboxylic acid tert-butyl ester | 0.136 mmol, 60.3 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=CC=C(C=C1)C=1NC(C2=CC=CC(=C2C1)C#C)=O | C27H29N3O3
reactant | HCl dioxane | 4M, 3 mL | Cl.O1CCOCC1
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 5-ethynyl-3-(4-piperazin-1-ylmethylphenyl)-2H-isoquinolin-1-one | 16.0 mg, 34% | C(#C)C1=C2C=C(NC(C2=CC=C1)=O)C1=CC=C(C=C1)CN1CCNCC1 | C22H21N3O
